Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Amoxicillin / Penicillins / etodolac / bee sting
 
Attending: ___.
 
Chief Complaint:
low back pain that radiates down the back of the right thigh and 
calf 
 

 
Major Surgical or Invasive Procedure:
L5-S1 laminectomy and TLIF (Dr. ___, ___.

 
History of Present Illness:
___ with low back pain that radiates down the back of the right 
thigh and calf. At this point, it does not bother her foot or 
ankle. The left leg is unaffected. This has been bothering her 
for ___ years since a work related injury. She is an ___ ___ 
and was injured when she helped a person in a wheelchair from 
falling when getting off of a bus on ___. The pain is a
___ on the pain scale and is worse with driving, potholes, 
sitting for long periods of time, bending or walking. It is 
better with electrotherapy. She has gone to physical therapy for 
3 months, has had several injections, and tried medication. The 
injections used to give her relief, but no longer do. She 
reports occasionally leaking urine when she sneezes but no other 
bowel or bladder incontinence. X-rays of the lumbar spine show 
moderate degenerative disc disease at L5-S1. No evidence for 
dynamic instability. MRI of the lumbar spine show degenerative 
changes at L5-S1 with a left eccentric broad-based disc 
protrusion posterior displacing the left S1 nerve root. This 
results in mild spinal canal narrowing, mild right-sided neural 
foraminal stenosis, and moderate left-sided neural foraminal 
stenosis. These findings have worsened as compared to MRI lumbar 
spine ___. She presents now for surgical treatment. 


 
Past Medical History:
PAST MEDICAL HISTORY: 
GASTROESOPHAGEAL REFLUX                                         
LEFT BREAST ABSCESS                                             
PARAGUARD IUD                                                   
LOW BACK PAIN                                                   
OBESITY                                                         
H/O  POS PPD                                                    
H/O HEADACHE 
SURGICAL HISTORY:  Left ankle surgery ___, Tonsillectomy ___,
appendectomy ___                                     

 
Social History:
SOCIAL HISTORY: The patient is married with 3 children. She is 
out of work from the ___ because she cannot drive for long 
periods of time or help with people in wheelchairs. She does not 
smoke or use recreational drugs.
 
Physical Exam:
PE: 
VS
___ 0404 Temp: 98.7 BP: 135/80 L Sitting HR: 74 RR: 18 O2
sat: 99% O2 delivery: Ra 
___ 0029 Temp: 97.8 BP: 102/61 R Lying HR: 84 RR: 18 O2 
sat:
96% O2 delivery: Ra 

NAD, A&Ox3
nl resp effort
RR
Tearful this AM
  
Sensory:
___    
     L2     L3      L4         L5        S1          S2
   (Groin) (Knee) (Med Calf) (Grt Toe) (Sm Toe) (Post Thigh)
R    SILT   SILT    SILT       SILT     SILT       SILT 
L    SILT   SILT    SILT       SILT     SILT       SILT 

Motor:
___  Flex(L1) Add(L2) Quad(L3)  TA(L4) ___ ___
R      5       5       5         5      5      5         5      
L      5       5       5         5      5      5         5

Clonus: No beats

 
Pertinent Results:
___ 08:05AM BLOOD WBC-14.5* RBC-3.79* Hgb-10.8* Hct-33.6* 
MCV-89 MCH-28.5 MCHC-32.1 RDW-14.5 RDWSD-46.8* Plt ___
___ 08:05AM BLOOD Plt ___
___ 08:05AM BLOOD Glucose-101* UreaN-5* Creat-0.8 Na-139 
K-3.4* Cl-101 HCO3-26 AnGap-12
___ 08:05AM BLOOD Calcium-8.9 Phos-3.4 Mg-1.9
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure.Refer to the 
dictated operative note for further details.The surgery was 
without complication and the patient was transferred to the PACU 
in a stable ___ were used for postoperative 
DVT prophylaxis.Intravenous antibiotics were continued for 24hrs 
postop per standard protocol.Initial postop pain was controlled 
with oral and IV pain medication.Diet was advanced as 
tolerated.Foley was removed on POD#2. Physical therapy and 
Occupational therapy were consulted for mobilization OOB to 
ambulate and ADL's.Hospital course was otherwise unremarkable.On 
the day of discharge the patient was afebrile with stable vital 
signs, comfortable on oral pain control and tolerating a regular 
diet.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 severe allergic 
reaction 
2. Pregabalin 75 mg PO BID 
3. Tizanidine 4 mg PO Q8H:PRN spasms 
4. Ranitidine 150 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
may take over the counter  
2.  Docusate Sodium 100 mg PO BID 
please take while taking pain medications 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q3H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Per pain management 
recommendations
please do not operate heavy machinery, drink alcohol or drive 
RX *oxycodone 10 mg ___ tablet(s) by mouth Q3H Disp #*84 
Tablet Refills:*0 
4.  Pregabalin 150 mg PO BID 
RX *pregabalin [Lyrica] 150 mg 1 capsule(s) by mouth twice a day 
Disp #*14 Capsule Refills:*0 
5.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 severe allergic 
reaction  
6.  Ranitidine 150 mg PO BID  
7.  Tizanidine 4 mg PO Q8H:PRN spasms  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1.  Lumbar spinal stenosis with right lower extremity
radiculopathy.
2.  Lumbar spinal stenosis, L5-S1
3.  Degenerative disc disease, L5-S1.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Lumbar Decompression With Fusion:

You have undergone the following operation: Lumbar Decompression 
With Fusion

Immediately after the operation:

•                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit or stand more than~45 minutes without getting up and 
walking around.

•                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.Limit any kind 
of lifting.

•                Diet: Eat a normal healthy diet.You may have 
some constipation after surgery.You have been given medication 
to help with this issue.

•                Brace:You may have been given a brace.If you 
have been given a brace,this brace is to be worn when you are 
walking.You may take it off when sitting in a chair or while 
lying in bed.

•                Wound Care:Please keep the incision covered 
with a dry dressing on until our follow up appointment. If the 
incision is draining cover it with a new sterile dressing.Once 
the incision is completely dry (usually ___ days after the 
operation) you may take a shower and place a new dry dressing in 
place. Do not soak the incision in a bath or pool.If the 
incision starts draining at anytime after surgery, do not get 
the incision wet.Cover it with a sterile dressing.Call the 
office.

•                You should resume taking your normal home 
medications.

•                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions,so please plan ahead.You can either have 
them mailed to your home or pick them up at the clinic located 
on ___.We are not allowed to call in or fax narcotic 
prescriptions(oxycontin,oxycodone,percocet) to your pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.

•                Follow up:

                Please Call the office and make an appointment 
for 2 weeks after the day of your operation if this has not been 
done already.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.
Physical Therapy:
1)Weight bearing as tolerated.2)Gait,balance training.3)No 
lifting >10 lbs.4)No significant bending/twisting. 
Treatments Frequency:

 
Followup Instructions:
___